US06573377B1
(1) 1-(2,4-Difluoro-6-nitrophenoxy)-2,3-epoxypropane
A mixture consisting of 12.62 g of 2,4-difluoro-6-nitrophenol, 36 ml of epichlorohydrin, 3.3 g of sodium hydroxide, 15 ml of water and 320 ml of ethanol was stirred at 80° C. for 24 hours. After cooling the reaction solution to room temperature, the insoluble matter was removed by filtration and the filtrate was concentrated to dryness under a reduced pressure. The resulting residue was dissolved in an ether-hexane (1:2) mixed solvent, washed with water and saturated brine and dried with anhydrous sodium sulfate, and then the solvent was evaporated under a reduced pressure. The residue was applied to a silica gel column chromatography and developed with an ethyl acetate-hexane (1:9) mixed solvent, and then the fractions containing the compound of interest were concentrated to obtain 11.28 g of the title compound.

reactant | 2,4-difluoro-6-nitrophenol | 12.62 g | FC1=C(C(=CC(=C1)F)[N+](=O)[O-])O | C6H3F2NO3
reactant | epichlorohydrin | 36 ml | C(Cl)C1CO1 | C3H5ClO
reactant | sodium hydroxide | 3.3 g | [OH-].[Na+]
reactant | water | 15 ml | O | H2O
solvent | ethanol | 320 ml | C(C)O | C2H6O
product | 1-(2,4-Difluoro-6-nitrophenoxy)-2,3-epoxypropane | 11.28 g | FC1=C(OCC2CO2)C(=CC(=C1)F)[N+](=O)[O-] | C9H7F2NO4
